US04540692
A mixture of methyl 4-hydroxy-2-methyl-2H-1,2-benzothiazine-3-carboxylate 1,1-dioxide (2.95 g) and 2-amino-7-hydroxy-2,4,6-cycloheptatrien-1-one (1.5 g) in xylene (103 ml) was refluxed for 52 hours. The reaction mixture was cooled to room temperature. The crystals were collected by filtration and washed successively with N,N-dimethylformamide and chloroform to give 4-hydroxy-N-(7-hydroxy-1-oxo-2,4,6-cycloheptatrien-2-yl)-2-methyl-2H-1,2-benzothiazine-3-carboxamide 1,1-dioxide (3.7 g).

reactant | methyl 4-hydroxy-2-methyl-2H-1,2-benzothiazine-3-carboxylate 1,1-dioxide | 2.95 g | OC1=C(N(S(C2=C1C=CC=C2)(=O)=O)C)C(=O)OC | C11H11NO5S
reactant | 2-amino-7-hydroxy-2,4,6-cycloheptatrien-1-one | 1.5 g | NC=1C(C(=CC=CC1)O)=O | C7H7NO2
solvent | xylene | 103 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 4-hydroxy-N-(7-hydroxy-1-oxo-2,4,6-cycloheptatrien-2-yl)-2-methyl-2H-1,2-benzothiazine-3-carboxamide 1,1-dioxide | 3.7 g | OC1=C(N(S(C2=C1C=CC=C2)(=O)=O)C)C(=O)NC=2C(C(=CC=CC2)O)=O | C17H14N2O6S
